US07790898B2
(2,5-difluorophenyl)-[3-hydroxy-3-(3-methoxyphenyl)-piperidine-1-yl]-methanone
The compound of Example 5 was prepared according to the general preparation protocol A from 2,5-difluorobenzoyl chloride and 3-(3-methoxy-phenyl)-piperidine-3-ol.

reactant | 2,5-difluorobenzoyl chloride | FC1=C(C(=O)Cl)C=C(C=C1)F | C7H3ClF2O
reactant | 3-(3-methoxy-phenyl)-piperidine-3-ol | COC=1C=C(C=CC1)C1(CNCCC1)O | C12H17NO2
product | (2,5-difluorophenyl)-[3-hydroxy-3-(3-methoxyphenyl)-piperidine-1-yl]-methanone | FC1=C(C=C(C=C1)F)C(=O)N1CC(CCC1)(C1=CC(=CC=C1)OC)O | C19H19F2NO3
